US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(2-fluoro-4-propoxyphenyl)imidazolidin-2-one
The compound was synthesized starting from 5-aminobenzimidazole (0.09 g, 0.67 mmol), 2-fluoro-4-propoxybenzaldehyde (0.11 g, 0.6 mmol), TMSCN (0.084 mL, 0.67 mmol), PdC (10%, 0.02 g), TEA 0.184 mL, 1.32 mmol), di-(imidazol-1-yl)methanone (0.117 g, 0.72 mmol) as described in method 2.

reactant | 5-aminobenzimidazole | 0.67 mmol, 0.09 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 2-fluoro-4-propoxybenzaldehyde | 0.6 mmol, 0.11 g | FC1=C(C=O)C=CC(=C1)OCCC | C10H11FO2
reactant | TMSCN | 0.67 mmol, 0.084 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 0.72 mmol, 0.117 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(2-fluoro-4-propoxyphenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=C(C=C(C=C2)OCCC)F)=O | C19H19FN4O2
